US08748012B2
A mixture solution of 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (6.0 g, 15.53 mmol), bis(3-bromophenyl)diphenylsilane (19.19 g, 38.8 mmol), Pd2(dba)3 (0.28 g, 0.31 mmol), SPhos (0.26 g, 0.62 mmol) and K3PO4 (3.30 g, 15.53 mmol) in xylene (150 mL) and water (15 mL) was refluxed under nitrogen at 120° C. overnight. After cooling to room temperature, the reaction mixture was quenched with water, extracted with DCM, washed with brine and water, and dried over Na2SO4. Upon evaporation of the solvent, the residue was purified by column chromatography on silica gel with hexane:DCM (9.5:0.5 to 9:1, v/v) as eluent. The crude product was dissolved in DCM, precipitated with methanol, and filtered to yield (3-bromophenyl)(3′-(dibenzo[b,d]thiophen-4-yl)-[1,1′-biphenyl]-3-yl)diphenylsilane (3.2 g, 30.6%) as a white powder.

reactant | 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 15.53 mmol, 6.0 g | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=C(C=CC3)B3OC(C(O3)(C)C)(C)C | C24H23BO2S
reactant | bis(3-bromophenyl)diphenylsilane | 38.8 mmol, 19.19 g | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC(=CC=C1)Br | C24H18Br2Si
reactant | SPhos | 0.62 mmol, 0.26 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K3PO4 | 15.53 mmol, 3.30 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | xylene | 150 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 15 mL | O | H2O
catalyst | Pd2(dba)3 | 0.31 mmol, 0.28 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (3-bromophenyl)(3′-(dibenzo[b,d]thiophen-4-yl)-[1,1′-biphenyl]-3-yl)diphenylsilane | 3.2 g, 30.6% | BrC=1C=C(C=CC1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C=1C=C(C=CC1)C1=CC(=CC=C1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C42H29BrSSi
